US06794334B2
Synthesis of [CH3(CH2)17NHCOCONH(CH2)17CH3]
To a solution of 53.5 g of stearylamine and 15.7 g of pyridine in 599.2 g of tetrahydrofuran was added under room temperature a solution of 12.0 g of oxalyl chloride in 120.0 g of tetrahydrofuran dropwise. After stirring, the mixture was stirred at room temperature for 5 hours. The deposited crystal was filtrated, washed with water and re-crystallized from toluene, to obtain 19.6 g of the intended compound.

reactant | stearylamine | 53.5 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | pyridine | 15.7 g | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 12.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | tetrahydrofuran | 599.2 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120.0 g | O1CCCC1 | C4H8O
product | CH3(CH2)17NHCOCONH(CH2)17CH3 | 19.6 g | CCCCCCCCCCCCCCCCCCNC(=O)C(=O)NCCCCCCCCCCCCCCCCCC | C38H76N2O2
